US04668698
A solution of 3-(hydroxymethyl)phenoxyacetic acid (3.18 g.) in ethanol (30 ml.) was treated with concentrated sulphuric acid (10 drops) and allowed to stand for 3 days. Chloroform (100 ml.) and water (50 ml.) were then added. The organic phase was separated, washed sequentially with saturated aqueous sodium hydrogen carbonate solution (2×50 ml.), water (50 ml.) and saturated brine (50 ml.) and then dried (MgSO4) The dried solution was evaporated and the residue purified by flash column chromatography, eluting with petrol (40°-60° )/ ethyl acetate (60:40 v/v) to give ethyl 3-(hydroxymethyl)phenoxyacetate (2.6 g.) as a colourless oil, NMR: 1.25 (3H,t), 2.8 (1H,br s), 4.25 (2H,q), 4.6 (4H,s) and 6.6-7.4 (4H,m)ppm.

reactant | 3-(hydroxymethyl)phenoxyacetic acid | 3.18 g | OCC=1C=C(OCC(=O)O)C=CC1 | C9H10O4
reactant | Chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | water | 50 ml | O | H2O
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | ethyl 3-(hydroxymethyl)phenoxyacetate | 2.6 g | OCC=1C=C(OCC(=O)OCC)C=CC1 | C11H14O4
